US04245097
A solution of 5 g. of ethyl 4-(11-bromoundecanamido)benzoate in 50 ml. of tetrahydrofuran is slowly added with stirring to 13 ml. of 1 M borane in tetrahydrofuran. The solution is poured into 50 ml. of dilute hydrochloric acid and the resulting mixture is filtered. The solid is crystallized from acetonitrile to yield ethyl 4-(11-bromoundecylamino)benzoate as a white, crystalline solid.

reactant | ethyl 4-(11-bromoundecanamido)benzoate | BrCCCCCCCCCCC(=O)NC1=CC=C(C(=O)OCC)C=C1 | C20H30BrNO3
reactant | borane | 1 M | B | BH3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | ethyl 4-(11-bromoundecylamino)benzoate | BrCCCCCCCCCCCNC1=CC=C(C(=O)OCC)C=C1 | C20H32BrNO2
